US07074819B2
To a solution of 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (116 g, 1.9 mmol) in 1,2-dichloroethane (50 ml) were added zinc iodide(II) (0.7 g) and sodium cyanoborohydride (0.6 g), which was then stirred at room temperature for 4 hours. After the reaction was completed, the reaction mixture was poured into water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=5:1) to give 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (a mixture of (3RS,4RS) and (3RS,4SR), (3RS,4RS)/(3RS,4SR)=about 6/1) (590 mg, yield 52%). Then, this compound thus obtained was dissolved in methanol (50 ml) and tetrahydrofuran (10 ml), 10% palladium on carbon (0.23%) was added thereto, and the resulting mixture was stirred at room temperature under hydrogen for 20 hours. The reaction solution was filtered through cellite and concentrated under reduced pressure to give 4-(9-(t-butyldimethylsilyloxy)-nonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (crude product, 640 mg, stoichiometric yield, a mixture of (3RS,4RS) and (3RS,4SR), (3RS,4RS)/(3RS,4SR)=about 6/1).

reactant | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 1.9 mmol, 116 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1(C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)O | C35H52O7Si
reactant | sodium cyanoborohydride | 0.6 g | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | yield 52% | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H52O6Si
